US09212147B2
To 3-(bromomethyl)[1,4]benzodioxino[2,3-c]pyridazine (500 mg) were added dimethylformamide (10 ml), potassium iodide (30 mg), potassium carbonate (750 mg) and 2-naphthylalcohol (290 mg), and the mixture was stirred at room temperature for 24 hr. Water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with 1M aqueous sodium hydroxide solution and saturated brine, and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure, and the residue was washed with diethyl ether and the resulting solid was filtered and dried under reduced pressure to give 3-[(2-naphthyloxy)methyl][1,4]benzodioxino[2,3-c]pyridazine (400 mg).

reactant | 3-(bromomethyl)[1,4]benzodioxino[2,3-c]pyridazine | 500 mg | BrCC1=CC2=C(N=N1)OC1=C(O2)C=CC=C1 | C11H7BrN2O2
reactant | potassium iodide | 30 mg | [I-].[K+]
reactant | potassium carbonate | 750 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-naphthylalcohol | 290 mg | C1=C(C=CC2=CC=CC=C12)O | C10H8O
solvent | Water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-[(2-naphthyloxy)methyl][1,4]benzodioxino[2,3-c]pyridazine | 400 mg | C1=C(C=CC2=CC=CC=C12)OCC1=CC2=C(N=N1)OC1=C(O2)C=CC=C1 | C21H14N2O3
